* RC pulse benchmark — matches benchmarking/rc_pulse_vs_ngspice.py
* PULSE(V1 V2 TD TR TF PW PER): 0→1V, TD=1µs, TR=TF=1µs, PW=1ms, PER=2ms
vs 1 0 dc 0 pulse 0 1 1u 1u 1u 1m 2m
r1 1 2 1k
c1 2 0 1u

.options klu

.control
  tran 1u 1 0 1u
  wrdata /tmp/ngspice_rc_pulse.dat v(1) v(2)
  set noaskquit
  quit
.endc

.end
